US04933355
2-o-Toluidinothiazole-4-carbaldehyde
Following a procedure similar to that described in Preparation 44, the desired compound was prepared from 6.12 g of 2-(o-toluidino)thiazole-4-ylmethanol, 13.2 g of a sulfur trioxide pyridine complex, 12 ml of triethylamine and 210 ml of dimethyl sulfoxide, as pale brown prismatic crystals having the following physical properties.

reactant | 2-(o-toluidino)thiazole-4-ylmethanol | 6.12 g | C=1(C(=CC=CC1)NC=1SC=C(N1)CO)C | C11H12N2OS
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 210 ml | CS(=O)C | C2H6OS
product | 2-o-Toluidinothiazole-4-carbaldehyde | C=1(C(=CC=CC1)NC=1SC=C(N1)C=O)C | C11H10N2OS
